US07534894B2
Oxalyl chloride (7.1 mL, 81.4 mmol) in 50 mL of methylene chloride was added under nitrogen dropwise to a solution of 1-methyl-1H-indole carboxylic acid (2.86 g, 16.3 mmol) in 100 mL of methylene chloride at room temperature. After the addition the reaction was stirred at room temperature until the reaction was determined by NMR analysis to be complete. The solvent and excess oxalyl chloride were removed under reduced pressure. The residue was taken up in benzene and then concentrated to dryness under reduced pressure to give 1-methyl-1H-indole-3-carbonyl chloride, which was used in the following reaction without purification.

reactant | Oxalyl chloride | 81.4 mmol, 7.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-1H-indole carboxylic acid | 16.3 mmol, 2.86 g | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-1H-indole-3-carbonyl chloride | CN1C=C(C2=CC=CC=C12)C(=O)Cl | C10H8ClNO
